US05244863
A solution of 2-ethoxycarbonylimino-3-(3-trifluoromethylphenyl)-5-methylthiazoline (1.0 g) and sodium methoxide (28 % methanolic solution; 0.6 g) in methanol (30 ml) was refluxed for 10 hours. After removal of the solvent, the residue was extracted with chloroform (100 ml), washed with water and dried over anhydrous magnesium. The solvent was removed under reduced pressure, and the residue was subjected to column chromatography to give 0.8 g of 2-methoxycarbonylimino-3-(3-trifluoromethylphenyl)-5-methylthiazoline (Compound No. 3).

reactant | 2-ethoxycarbonylimino-3-(3-trifluoromethylphenyl)-5-methylthiazoline | 1.0 g | C(C)OC(=O)N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)C | C14H13F3N2O2S
reactant | sodium methoxide | 0.6 g | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-methoxycarbonylimino-3-(3-trifluoromethylphenyl)-5-methylthiazoline | 0.8 g | COC(=O)N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)C | C13H11F3N2O2S
